### ISSUE TITLE
introN doesn't always correctly update instance cache

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover/lean4#2199]
### Description

Consider 
```lean
theorem exists_foo : ∃ T : Type, Nonempty T := ⟨Unit, ⟨()⟩⟩

example : True := by
  cases exists_foo
  rename_i T hT
  have : Nonempty T := hT -- delete this line to get error in next line
  have : Nonempty T := inferInstance
  trivial
```
The problem is that the local instance cache is not updated correctly by cases.

* `cases` calls [Lean.MVarId.introN](https://leanprover-community.github.io/mathlib_docs/find/Lean.MVarId.introN)
* `introN` (via `introNImp`) calls [Lean.Meta.withNewLocalInstances](https://leanprover-community.github.io/mathlib4_docs/find/?pattern=Lean.Meta.withNewLocalInstances#doc) that checks whether certain fvars are classes using two methods `isClassQuick?` and `isClassExpensive?`. 
* These two functions both have some support dealing with metavariables, but it makes the wrong decision in certain cases, not recognizing that (the metavariable assigned to) `Nonempty T` is a class.
* [this Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/!4.232894) has more discussion.
